* Z:\mnt\design.r\spice\examples\3791.asc
XU1 N018 N020 N018 NC_01 NC_02 N018 NC_03 NC_04 N005 IN N003 N001 N004 N009 N008 N011 0 N013 N014 MP_05 N012 N006 MP_06 N010 OUT N002 N015 0 MP_07 0 N022 MP_08 NC_09 0 N017 N021 N016 N007 LT3791
C1 N020 0 20n
C2 N021 0 22n
V1 IN 0 16
R1 IN N001 3m
R2 IN N005 332K
R3 N005 0 121K
C3 IN N003 470n
C4 0 N004 4.7µ
R5 IN N007 1Meg
R6 N007 0 54.9K
R7 N017 0 86.6K
C5 N018 0 .1µ
M§Q1 N001 N009 N011 N011 RJK0651DPB
M§Q2 N011 N013 N015 N015 RJK0651DPB
L1 N011 N012 10µ
C6 N008 N011 .1µ
D1 N004 N008 MBRS1100
C7 N006 N012 .1µ
D2 N004 N006 MBRS1100
M§Q3 OUT N010 N012 N012 Si4840DY
M§Q4 N012 N014 N015 N015 Si4840DY
R8 N015 0 4m
R9 OUT N016 1Meg
R10 N016 0 44.2K
R11 OUT N002 50m
D3 N002 N019 LUW-W5AP
C8 OUT 0 4.7µ x5
M§Q5 N019 N022 0 0 Si4840DY
R4 N003 N001 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
.lib LT3791.sub
.backanno
.end
